US06130238
2-Oxindole (82.9 9) was suspended in 630 mL of acetic acid with mechanical stirring and the mixture cooled to 10° C. in an ice water bath. Solid N-iodosuccinimide (175 g) was added in portions over 10 minutes. After the addition was complete the mixture was stirred for 1.0 hour at 10° C. The suspended solid which had always present became very thick at this time. The solid was collected by vacuum filtration, washed with 100 mL of 50% acetic acid in water and then with 200 mL of water and sucked dry for 20 minutes in the funnel. The product was dried under vacuum to give 93.5 g (36%) of 5-iodo-2-oxindole containing about 5% 2-oxindole by proton NMR.

reactant | 2-Oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-iodosuccinimide | 175 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 630 mL | C(C)(=O)O | C2H4O2
product | 5-iodo-2-oxindole | 93.5 g | IC=1C=C2CC(NC2=CC1)=O | C8H6INO
